US05516616
N-[3-(3,5-di-tert-butyl-4-hydroxybenzoyloxy)propyl]-N,N-dimethylbenzylammonium m-Nitrobenzenesulfonate
A solution of 10.27 g (30 mmol) of sodium m-nitrobenzenesulfonate in 70 ml of water was added to a hot solution of 13.86 g (30 mmol) of N-[3-(3,5-di-tert-butyl-4-hydroxybenzoyloxy)propyl]-N,N-dimethylbenzylammonium chloride prepared as described in Example 4 in 100 ml of water. An oily precipate formed. The aqueous phase was decanted and the residue was dissolved in methylene chloride, washed with water, dried over magnesium sulfate and concentrated. Ligroine was added to the concentrate and decanted followed by hot heptane treatment. The residue was dissolved in methylene chloride and concentrated to a white solid. The yield of N-[3-(3,5-di-tert-butyl-4-hydroxybenzoyloxy)propyl]-N,N-dimethylbenzylammonium m-nitrobenzene sulfonate was 10.5 g (55.6% of theory).

reactant | sodium m-nitrobenzenesulfonate | 30 mmol, 10.27 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-].[Na+]
reactant | N-[3-(3,5-di-tert-butyl-4-hydroxybenzoyloxy)propyl]-N,N-dimethylbenzylammonium chloride | 30 mmol, 13.86 g | [Cl-].C(C)(C)(C)C=1C=C(C(=O)OCCC[N+](C)(C)CC2=CC=CC=C2)C=C(C1O)C(C)(C)C
solvent | water | 70 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | N-[3-(3,5-di-tert-butyl-4-hydroxybenzoyloxy)propyl]-N,N-dimethylbenzylammonium m-Nitrobenzenesulfonate | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-].C(C)(C)(C)C=1C=C(C(=O)OCCC[N+](C)(C)CC2=CC=CC=C2)C=C(C1O)C(C)(C)C | InChI=1S/C27H39NO3.C6H5NO5S/c1-26(2,3)22-17-21(18-23(24(22)29)27(4,5)6)25(30)31-16-12-15-28(7,8)19-20-13-10-9-11-14-20;8-7(9)5-2-1-3-6(4-5)13(10,11)12/h9-11,13-14,17-18H,12,15-16,19H2,1-8H3;1-4H,(H,10,11,12)
